*$
***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD18532NQ5B
* Date: 06/27/2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS440 - JUNE 2013
*
*****************************************************************************
**********************************************************************
*                                                                    *
* CSD18532Q5B  -  PSpice Model for use with OrCAD                    *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.86E-09	)
+	(	0.5	1.85E-09	)
+	(	1	1.83E-09	)
+	(	1.5	1.82E-09	)
+	(	2	1.81E-09	)
+	(	2.5	1.80E-09	)
+	(	3	1.79E-09	)
+	(	3.5	1.78E-09	)
+	(	4	1.78E-09	)
+	(	4.5	1.77E-09	)
+	(	5	1.77E-09	)
+	(	5.5	1.77E-09	)
+	(	6	1.76E-09	)
+	(	6.5	1.76E-09	)
+	(	7	1.76E-09	)
+	(	7.5	1.76E-09	)
+	(	8	1.78E-09	)
+	(	8.5	1.87E-09	)
+	(	9	1.85E-09	)
+	(	9.5	1.84E-09	)
+	(	10	1.84E-09	)
+	(	10.5	1.84E-09	)
+	(	11	1.84E-09	)
+	(	11.5	1.84E-09	)
+	(	12	1.83E-09	)
+	(	12.5	1.83E-09	)
+	(	13	1.83E-09	)
+	(	13.5	1.83E-09	)
+	(	14	1.83E-09	)
+	(	14.5	1.83E-09	)
+	(	15	1.83E-09	)
+	(	15.5	1.83E-09	)
+	(	16	1.82E-09	)
+	(	16.5	1.82E-09	)
+	(	17	1.82E-09	)
+	(	17.5	1.82E-09	)
+	(	18	1.82E-09	)
+	(	18.5	1.82E-09	)
+	(	19	1.82E-09	)
+	(	19.5	1.82E-09	)
+	(	20	1.81E-09	)
+	(	20.5	1.81E-09	)
+	(	21	1.81E-09	)
+	(	21.5	1.81E-09	)
+	(	22	1.81E-09	)
+	(	22.5	1.81E-09	)
+	(	23	1.81E-09	)
+	(	23.5	1.80E-09	)
+	(	24	1.80E-09	)
+	(	24.5	1.80E-09	)
+	(	25	1.80E-09	)
+	(	25.5	1.80E-09	)
+	(	26	1.80E-09	)
+	(	26.5	1.80E-09	)
+	(	27	1.79E-09	)
+	(	27.5	1.79E-09	)
+	(	28	1.79E-09	)
+	(	28.5	1.79E-09	)
+	(	29	1.79E-09	)
+	(	29.5	1.79E-09	)
+	(	30	1.78E-09	)
+	(	30.5	1.78E-09	)
+	(	31	1.78E-09	)
+	(	31.5	1.78E-09	)
+	(	32	1.78E-09	)
+	(	32.5	1.77E-09	)
+	(	33	1.77E-09	)
+	(	33.5	1.77E-09	)
+	(	34	1.77E-09	)
+	(	34.5	1.77E-09	)
+	(	35	1.76E-09	)
+	(	35.5	1.76E-09	)
+	(	36	1.76E-09	)
+	(	36.5	1.76E-09	)
+	(	37	1.76E-09	)
+	(	37.5	1.76E-09	)
+	(	38	1.75E-09	)
+	(	38.5	1.75E-09	)
+	(	39	1.75E-09	)
+	(	39.5	1.75E-09	)
+	(	40	1.75E-09	)
+	(	40.5	1.74E-09	)
+	(	41	1.74E-09	)
+	(	41.5	1.74E-09	)
+	(	42	1.74E-09	)
+	(	42.5	1.74E-09	)
+	(	43	1.73E-09	)
+	(	43.5	1.73E-09	)
+	(	44	1.73E-09	)
+	(	44.5	1.73E-09	)
+	(	45	1.73E-09	)
+	(	45.5	1.72E-09	)
+	(	46	1.72E-09	)
+	(	46.5	1.72E-09	)
+	(	47	1.72E-09	)
+	(	47.5	1.72E-09	)
+	(	48	1.71E-09	)
+	(	48.5	1.71E-09	)
+	(	49	1.71E-09	)
+	(	49.5	1.71E-09	)
+	(	50	1.71E-09	)
+	(	50.5	1.70E-09	)
+	(	51	1.70E-09	)
+	(	51.5	1.70E-09	)
+	(	52	1.70E-09	)
+	(	52.5	1.70E-09	)
+	(	53	1.69E-09	)
+	(	53.5	1.69E-09	)
+	(	54	1.69E-09	)
+	(	54.5	1.69E-09	)
+	(	55	1.68E-09	)
+	(	55.5	1.68E-09	)
+	(	56	1.68E-09	)
+	(	56.5	1.68E-09	)
+	(	57	1.68E-09	)
+	(	57.5	1.67E-09	)
+	(	58	1.67E-09	)
+	(	58.5	1.67E-09	)
+	(	59	1.67E-09	)
+	(	59.5	1.66E-09	)
+	(	60	1.66E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	2.635E-10	)
+	(	0.5	2.548E-10	)
+	(	1	2.483E-10	)
+	(	1.5	2.433E-10	)
+	(	2	2.378E-10	)
+	(	2.5	2.318E-10	)
+	(	3	2.252E-10	)
+	(	3.5	2.186E-10	)
+	(	4	2.118E-10	)
+	(	4.5	2.049E-10	)
+	(	5	1.982E-10	)
+	(	5.5	1.917E-10	)
+	(	6	1.853E-10	)
+	(	6.5	1.792E-10	)
+	(	7	1.723E-10	)
+	(	7.5	1.626E-10	)
+	(	8	1.405E-10	)
+	(	8.5	1.582E-11	)
+	(	9	3.005E-11	)
+	(	9.5	2.959E-11	)
+	(	10	2.873E-11	)
+	(	10.5	2.786E-11	)
+	(	11	2.702E-11	)
+	(	11.5	2.62E-11	)
+	(	12	2.542E-11	)
+	(	12.5	2.466E-11	)
+	(	13	2.394E-11	)
+	(	13.5	2.326E-11	)
+	(	14	2.262E-11	)
+	(	14.5	2.201E-11	)
+	(	15	2.143E-11	)
+	(	15.5	2.088E-11	)
+	(	16	2.035E-11	)
+	(	16.5	1.984E-11	)
+	(	17	1.937E-11	)
+	(	17.5	1.892E-11	)
+	(	18	1.851E-11	)
+	(	18.5	1.813E-11	)
+	(	19	1.777E-11	)
+	(	19.5	1.745E-11	)
+	(	20	1.714E-11	)
+	(	20.5	1.684E-11	)
+	(	21	1.658E-11	)
+	(	21.5	1.634E-11	)
+	(	22	1.61E-11	)
+	(	22.5	1.589E-11	)
+	(	23	1.57E-11	)
+	(	23.5	1.553E-11	)
+	(	24	1.538E-11	)
+	(	24.5	1.524E-11	)
+	(	25	1.512E-11	)
+	(	25.5	1.504E-11	)
+	(	26	1.496E-11	)
+	(	26.5	1.491E-11	)
+	(	27	1.487E-11	)
+	(	27.5	1.486E-11	)
+	(	28	1.485E-11	)
+	(	28.5	1.488E-11	)
+	(	29	1.491E-11	)
+	(	29.5	1.496E-11	)
+	(	30	1.501E-11	)
+	(	30.5	1.507E-11	)
+	(	31	1.512E-11	)
+	(	31.5	1.518E-11	)
+	(	32	1.522E-11	)
+	(	32.5	1.525E-11	)
+	(	33	1.527E-11	)
+	(	33.5	1.528E-11	)
+	(	34	1.526E-11	)
+	(	34.5	1.525E-11	)
+	(	35	1.522E-11	)
+	(	35.5	1.517E-11	)
+	(	36	1.513E-11	)
+	(	36.5	1.508E-11	)
+	(	37	1.5E-11	)
+	(	37.5	1.494E-11	)
+	(	38	1.486E-11	)
+	(	38.5	1.479E-11	)
+	(	39	1.472E-11	)
+	(	39.5	1.464E-11	)
+	(	40	1.457E-11	)
+	(	40.5	1.449E-11	)
+	(	41	1.442E-11	)
+	(	41.5	1.435E-11	)
+	(	42	1.429E-11	)
+	(	42.5	1.421E-11	)
+	(	43	1.414E-11	)
+	(	43.5	1.409E-11	)
+	(	44	1.404E-11	)
+	(	44.5	1.398E-11	)
+	(	45	1.393E-11	)
+	(	45.5	1.388E-11	)
+	(	46	1.383E-11	)
+	(	46.5	1.379E-11	)
+	(	47	1.375E-11	)
+	(	47.5	1.371E-11	)
+	(	48	1.367E-11	)
+	(	48.5	1.365E-11	)
+	(	49	1.363E-11	)
+	(	49.5	1.36E-11	)
+	(	50	1.359E-11	)
+	(	50.5	1.357E-11	)
+	(	51	1.356E-11	)
+	(	51.5	1.354E-11	)
+	(	52	1.354E-11	)
+	(	52.5	1.353E-11	)
+	(	53	1.354E-11	)
+	(	53.5	1.354E-11	)
+	(	54	1.355E-11	)
+	(	54.5	1.355E-11	)
+	(	55	1.356E-11	)
+	(	55.5	1.358E-11	)
+	(	56	1.361E-11	)
+	(	56.5	1.363E-11	)
+	(	57	1.364E-11	)
+	(	57.5	1.367E-11	)
+	(	58	1.369E-11	)
+	(	58.5	1.372E-11	)
+	(	59	1.376E-11	)
+	(	59.5	1.38E-11	)
+	(	60	1.384E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	5.6335E-09	)
+	(	0.5	5.1742E-09	)
+	(	1	4.6117E-09	)
+	(	1.5	4.2237E-09	)
+	(	2	3.9382E-09	)
+	(	2.5	3.7102E-09	)
+	(	3	3.5168E-09	)
+	(	3.5	3.3584E-09	)
+	(	4	3.2162E-09	)
+	(	4.5	3.0941E-09	)
+	(	5	2.9838E-09	)
+	(	5.5	2.8843E-09	)
+	(	6	2.7907E-09	)
+	(	6.5	2.7048E-09	)
+	(	7	2.6177E-09	)
+	(	7.5	2.5244E-09	)
+	(	8	2.4195E-09	)
+	(	8.5	2.39718E-09	)
+	(	9	2.06395E-09	)
+	(	9.5	1.20341E-09	)
+	(	10	1.14827E-09	)
+	(	10.5	1.10114E-09	)
+	(	11	1.05898E-09	)
+	(	11.5	1.0208E-09	)
+	(	12	9.8658E-10	)
+	(	12.5	9.5464E-10	)
+	(	13	9.2526E-10	)
+	(	13.5	8.9804E-10	)
+	(	14	8.7258E-10	)
+	(	14.5	8.4879E-10	)
+	(	15	8.2627E-10	)
+	(	15.5	8.0512E-10	)
+	(	16	7.8505E-10	)
+	(	16.5	7.6606E-10	)
+	(	17	7.4803E-10	)
+	(	17.5	7.3098E-10	)
+	(	18	7.1469E-10	)
+	(	18.5	6.9927E-10	)
+	(	19	6.8463E-10	)
+	(	19.5	6.7055E-10	)
+	(	20	6.5716E-10	)
+	(	20.5	6.4446E-10	)
+	(	21	6.3232E-10	)
+	(	21.5	6.2066E-10	)
+	(	22	6.096E-10	)
+	(	22.5	5.9901E-10	)
+	(	23	5.889E-10	)
+	(	23.5	5.7927E-10	)
+	(	24	5.7012E-10	)
+	(	24.5	5.6136E-10	)
+	(	25	5.5278E-10	)
+	(	25.5	5.4486E-10	)
+	(	26	5.3714E-10	)
+	(	26.5	5.2989E-10	)
+	(	27	5.2293E-10	)
+	(	27.5	5.1624E-10	)
+	(	28	5.0995E-10	)
+	(	28.5	5.0382E-10	)
+	(	29	4.9799E-10	)
+	(	29.5	4.9244E-10	)
+	(	30	4.8709E-10	)
+	(	30.5	4.8203E-10	)
+	(	31	4.7718E-10	)
+	(	31.5	4.7252E-10	)
+	(	32	4.6808E-10	)
+	(	32.5	4.6385E-10	)
+	(	33	4.5983E-10	)
+	(	33.5	4.5602E-10	)
+	(	34	4.5234E-10	)
+	(	34.5	4.4885E-10	)
+	(	35	4.4558E-10	)
+	(	35.5	4.4233E-10	)
+	(	36	4.3937E-10	)
+	(	36.5	4.3642E-10	)
+	(	37	4.336E-10	)
+	(	37.5	4.3096E-10	)
+	(	38	4.2844E-10	)
+	(	38.5	4.2601E-10	)
+	(	39	4.2358E-10	)
+	(	39.5	4.2136E-10	)
+	(	40	4.1913E-10	)
+	(	40.5	4.1701E-10	)
+	(	41	4.1498E-10	)
+	(	41.5	4.1295E-10	)
+	(	42	4.1101E-10	)
+	(	42.5	4.0919E-10	)
+	(	43	4.0746E-10	)
+	(	43.5	4.0571E-10	)
+	(	44	4.0396E-10	)
+	(	44.5	4.0242E-10	)
+	(	45	4.0077E-10	)
+	(	45.5	3.9922E-10	)
+	(	46	3.9777E-10	)
+	(	46.5	3.9631E-10	)
+	(	47	3.9495E-10	)
+	(	47.5	3.9359E-10	)
+	(	48	3.9223E-10	)
+	(	48.5	3.9095E-10	)
+	(	49	3.8977E-10	)
+	(	49.5	3.885E-10	)
+	(	50	3.8731E-10	)
+	(	50.5	3.8613E-10	)
+	(	51	3.8504E-10	)
+	(	51.5	3.8396E-10	)
+	(	52	3.8296E-10	)
+	(	52.5	3.8187E-10	)
+	(	53	3.8086E-10	)
+	(	53.5	3.7996E-10	)
+	(	54	3.7895E-10	)
+	(	54.5	3.7805E-10	)
+	(	55	3.7714E-10	)
+	(	55.5	3.7632E-10	)
+	(	56	3.7549E-10	)
+	(	56.5	3.7467E-10	)
+	(	57	3.7386E-10	)
+	(	57.5	3.7313E-10	)
+	(	58	3.7231E-10	)
+	(	58.5	3.7158E-10	)
+	(	59	3.7094E-10	)
+	(	59.5	3.702E-10	)
+	(	60	3.6956E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT csd18532nq5b  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    17.0e-3  
 .PARAM  ptrc2    6.5e-5
 .PARAM  pwidthP  7.094733333
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.11u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
*xcgs	5	8	1	3	cgs
cgs		5	8	1.8e-9
xcds	8	10	1	3	cds
DBD	3	1	DBD
LGG   2  5	 2.1e-9
RGG   5 11	 1.2
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 0.50e-3
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP {1.29e-3-0.865e-3}
RDP   4  7	 {0.92e-3+0.23e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 670
+ UA     = 0.5e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.40        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18         CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.3
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.610e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18		gamma	=	10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=61
+ IS=5.5e-12 N=1.045 RS=0.55e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS csd18532nq5b  
*$
*
