***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD87381P
* Date: 04/18/2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS405A - MARCH 2013 - REVISED MARCH 2013
*
*****************************************************************************
*$
**********************************************************************
*                                                                    *
* csd87381p -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
* SUBCKT Definition:  1=VIN  2=TG  3=BG 4=PGND 5=VSW
* nFET SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT CSD87381P   1 2 3 4 5
LDHS	1	dh	0.1e-9
LGHS	2	gh	0.5e-9
XH	dh	gh	sh	N37330  
LSHS	sh	5	0.35e-9
LDLS	5	dl	0.01e-9
LGLS	3	gl	0.5e-9
XL	dl	gl	sl	N17329
LSLS	sl	4	0.05e-9
.ends CSD87381P   
*$
**********************************************************************
*                                                                    *
* n17329	-  PSpice Model for use with OrCAD                    *
*                                                                    *
**********************************************************************
.SUBCKT n17329	1 2 3
**********************************************************************
* PARAMETER (local) DEFINITIONS SECTION
****** Package Contributions *****************************************
 .PARAM  pRclip    0.81e-3	 ; Ohms (source clip / bond wire res)
 .PARAM  pRGwire   0.12		 ; Ohms  (gate wire resistance)
* RG_wire = 0.1 for q5;  RG_wire = 0.25 for q3  (estimate)
****** Device Geometry       *****************************************
 .PARAM  pWidth  1.553      ; m, scale width 
 .PARAM  perim  {2*pWidth}
 .PARAM  ptrc1  7e-3		 ; temp coef of extr Rd / Rs
 .PARAM  ptrc2  12.50e-6
**********************************************************************
M1   10 11 12 12  NMOS	W={pWidth} L=0.5u  PS={perim} PD={perim}
DBD   8  7	 DBD
CGD0  5  7	 1e-12
CGS0  5  8	 1e-12
*M2   12 11 12 20  PMOSd W={pWidth} L=0.075u PS={perim} PD={perim}
*DDx  20  10  	DDx
DDG  14  5	 DD
DGD  14 10	 DD
* Note:  gate oxide capacitance included in NMOS below
CGS   5 13	 53e-12
RGS  13  8	 500
LGG   2  5	 1.45e-18
RGG   5 11	 {1.75+ pRGwire}
RSB  12  9	 RTEMP 0.15e-3
RSS   9  8 	 0.18e-3
RSP   8  6 	 0.65e-3
LSS   6  3	 0.38e-18
RDP   4  7	 1.45e-3
RDD   7 10 	 RTEMP 3.9e-3
LDD   1  4	 0.05E-18
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL = 7              Version = 3.2  
+ TNOM   = 27            LINT   = 0.055e-6      CAPMOD = 2
+ TOX    = 1.75E-8       NCH    = 1.725e17       NSUB   = 5e15
+ AGS    = 0.0           PVAG   = 1.1
+ A0     = 1.00          A1     = 0.0           A2     = 0.90
+ UA     = 1.50e-9       UB     = 1.0e-18       VBM    = -5
+ UA1    = 2.4e-9        UB1    = -5.5e-18      UTE    = -1.50
+ KT1    = -0.725          KT2    =-0.022         KT1L   = 1.0e-12
+ DVT0   = 2.3           DVT1   = 0.55	        DVT2   = -0.033
+ ETA0   = 0.045         ETAB   = -0.07         XJ     = 3e-7
+ PDIBLC1= 0.08          PDIBLC2= 0.006         NLX    = 1.7e-7
+ PSCBE1 = 0.3e8         PSCBE2 = 2.5e-8        PCLM   = 3.00
+ VOFF   = -0.4          NFACTOR= 2.3           JS     = 0
+ DROUT  = 0.8           DSUB   = 1.6           DELTA  = 0.01
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 1.0e-10     CGDO   = 1.0e-18       CGBO   = 0  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -1.0          IS     = 6.0e-14
+ TOX    = 1.75e-8       NSUB   = 2.0e17        GAMMA  = 15
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
*******************************************************************
.MODEL DBD D (CJO=1.20e-09 VJ=0.90 M=0.55 TNOM=27
+ FC=0.5 TT=2e-09 XTI=1.5 BV=31
+ IS=2.5e-12 N=1.01 RS=0.5e-3 TRS1=4.0e-3)
.MODEL DD  D (CJO=5.5e-10 VJ=0.90 M=0.883 IS=1e-12 RS=0.1 TNOM=27)
.MODEL DDx D (CJO=0.094e-09 VJ=0.40 M=0.50 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS n17329	
**********************************************************************
**********************************************************************
*                                                                    *
*   n37330 -    PSpice Model for use with OrCAD	  	  *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT n37330	1 2 3
* PARAMETER (local) DEFINITIONS SECTION
.PARAM  pWidthP  0.52
.PARAM  pWidth   {pWidthP*1e6}
.PARAM  pLen     0.56u
.PARAM  perimP   {2.1*pWidthP}
.PARAM  perim    {perimP*1e6}
.PARAM  ptrc1    1.75e-3		; temp co of ext Rd / Rs
.PARAM  ptrc2    4.0e-6
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pWidthP} L={pLen}  PS={perimP} PD={perimP}
DBD   3  1	 DBD
CBD0  3  1   94e-12
RBD0  3  1   9e9
CGD0  2 13	 5E-12
RGD  13  1   2e6
CGS0  2  3	 6e-12
*M2   12 11 12 20  PMOSd W={pWidthP} L=0.015u PS={perimP} PD={perimP}
*RDx  20 12   1e14
*CDx  20 12   2p
*CGS   2 99 5e-10
*RGS   99 3 5
*DDx  20  10  DDx
DDG  14  11	 DD
DGD  14 10	 DD
RGG   2 11	 1.5
RSB  12  9	 rtemp 0.1543333e-3
RSS   9  3 	 rtemp 0.1543333e-3
RDD   1 10 	 rtemp 10.6433334e-3
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2  
+ TNOM   = 27            LINT   = 0.055e-6      CAPMOD = 2
+ TOX    = 1.75e-8       NCH    = 2.55e17      NSUB   = 2.5e16
+ AGS    = 0.0           PVAG   = 0.00          U0     = 670
+ A0     = 1.0          A1     = 0.0           A2     = 1.0
+ UA     = 2.25e-9       UB     = 5.87e-19       VBM    = -10
+ UA1    = 7.0e-9       UB1    = -7.61e-18      UTE    = -1.50
+ KT1    = -0.8         KT2    = 0.022         KT1L   = 1.0e-13
+ DVT0   = 2.2           DVT1   = 0.53	      DVT2   = -0.033
+ ETA0   = 0.080         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.01          PDIBLC2= 0.0086         NLX    = 1.75e-7
+ PSCBE1 = 4.24e8         PSCBE2 = 1e-5          PCLM   = 1e-3
+ VOFF   = -0.1        NFACTOR= 2.0          JS     = 0
+ DROUT  = 0.9           DSUB   = 1.3           DELTA  = 0.01
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 140.00e-12       CGDO   = 0.1e-12       CGBO   = 1e-18  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.65         IS     = 4e-14
+ TOX    = 1.75e-8       NSUB   = 5e17          GAMMA  = 10.0
+ CJ     = 1e-18         CJSW   = 1e-18 
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
******************************************************************* 
.MODEL DBD D (CJO=40.0e-11 VJ=0.9 M=0.45 TNOM=27 FC=0.5 TT=1e-09 
+ XTI=3.4 BV=31 IS=5.0e-13 N=1.02 RS=4.0e-3 TRS1=2.5e-3)
.MODEL DD  D (CJO=1.50e-10 VJ=0.9 M=0.90 IS=1e-13 TNOM=27)
.MODEL DDx D (CJO=0.02e-09 VJ=1.0 M=0.9 IS=1e-13 RS=1.0 TNOM=25)
*******************************************************************
.model rtemp res (tc1={ptrc1} tc2={ptrc2})
.ENDS n37330	
*